US07241791B2
Step 2: 4-(7-chloro-1-isopropyl-1H-indazol-3-yl)phenol
Prepared according to Method D step C from 7-chloro-1-isopropyl-3-(4-methoxyphenyl)-1H-indazole (0.093 g, 0.30 mmol), boron tribromide (0.094 mL, 1.0 mmol) and 0.3 mL of cyclohexene to give the product (0.025 g) as an off-white solid.

reactant | 7-chloro-1-isopropyl-3-(4-methoxyphenyl)-1H-indazole | 0.30 mmol, 0.093 g | ClC=1C=CC=C2C(=NN(C12)C(C)C)C1=CC=C(C=C1)OC | C17H17ClN2O
reactant | boron tribromide | 1.0 mmol, 0.094 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.3 mL | C1=CCCCC1 | C6H10
product | 4-(7-chloro-1-isopropyl-1H-indazol-3-yl)phenol | 0.025 g | ClC=1C=CC=C2C(=NN(C12)C(C)C)C1=CC=C(C=C1)O | C16H15ClN2O
